US07618961B2
Ethyl 2-{2-[(1-naphthylsulfonyl)amino]-1,3-thiazol-4-yl}acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 1-naphthylsulfonyl chloride according to METHOD A, giving a crude product that was purified by flash column chromatography on silica gel eluting with 2% methanol in DCM. This gave the pure title compound (3.93 g, 89%). MS (Ionspray, [M+H]+) m/z 376; Anal. Calcd. (found) for C17H16N2O4S2: C, 54.2 (54.02)%; H, 4.3 (3.9)%; N, 7.4 (7.1)%.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 1-naphthylsulfonyl chloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | Ethyl 2-{2-[(1-naphthylsulfonyl)amino]-1,3-thiazol-4-yl}acetate | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C17H16N2O4S2
